US03959300
A solution of 10.4 g. of cyclopropanecarbonyl chloride in 150 ml. of dichloromethane is rapidly added to a solution of 12.5 g. of 4-piperidone ethylene acetal (1,4-dioxa-8-azaspiro[4.5]decane) and 20 g. of triethylamine in 200 ml. of dichloromethane, causing the solution to reflux. Heating to reflux with stirring is continued overnight; the mixture is cooled and the precipitated triethylammonium chloride filtered off. The mother liquor is concentrated to about half volume, washed with water, dried over anhydrous potassium carbonate, and stripped to dryness. The residual oil quickly solidifies, and on crystallization from 300 ml. hexane yields cyclopropyl 1,4-dioxa-8-azaspiro[4.5]dec-8-yl ketone, m.p. 72°-74°, as white needles. Reduction of 14.0 g. of this compound in 60 ml. freshly chromatographed, peroxide-free ether by dropwise addition to a suspension of 2.5 g. of lithium aluminum hydride in similarly treated ether, followed by three hours of refluxing, yields 8-(cyclopropylmethyl)-1,4-dioxa-8azaspiro[4.5]decane as a colorless oil. Hydrolysis of this ethylene acetal by refluxing in 2N hydrochloric acid, followed by basification with 50% sodium hydroxide, extraction into ether, drying of the extrct, and stripping off the solvent, yields a crude product which distills at 111°-122°/16 mm. to give 1-(cyclopropylmethyl)-4-piperidone, shown by gas-liquid chromatography to be 95-99% pure.

reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 4-piperidone ethylene acetal | C1COC2(CCNCC2)O1 | C7H13NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | cyclopropyl 1,4-dioxa-8-azaspiro[4.5]dec-8-yl ketone | O1CCOC12CCN(CC2)C(=O)C2CC2 | C11H17NO3
